US09255097B2
4-[2-(4-amino-piperidin-1-yl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile
To a solution of {1-[4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (50 mg, 0.096 mmol) in EA (10 mL) was added a 5M HCl solution in EA and the mixture was stirred at RT for 2 h. The solvent was removed in vacuo and the residue was purified by preparative HPLC to give 18 mg (40%) of the title compound as the hydrochloride salt. 1H NMR (400 MHz, CD3OD): δ 1.81-1.87 (m, 2H), 2.22-2.25 (m, 2H), 3.34-3.38 (m, 2H), 3.56-3.60 (m, 1H), 3.78 (s, 3H), 4.61-4.64 (m, 2H), 6.86 (d, J=7.2 Hz, 2H), 7.08 (d, J=8.4 Hz, 2H), 7.37-7.38 (m, 1H), 7.51-7.53 (m, 1H), 7.74 (s, 1H). [M+H] Calc'd for C23H22FN5O2, 420. Found, 420.

reactant | {1-[4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.096 mmol, 50 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1NC(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O)=O | C28H30FN5O4
reactant | HCl | 5M | Cl | ClH
solvent | EA | 10 mL | CC(OCC)=O | C4H8O2
product | 4-[2-(4-amino-piperidin-1-yl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile | 18 mg, 40% | NC1CCN(CC1)C=1NC(C(=C(N1)C1=CC(=C(C#N)C=C1)F)C1=CC=C(C=C1)OC)=O | C23H22FN5O2
